**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Rod Core Inductor SMT
* Matchcode:              WE-RCIS
* Library Type:           spice
* Version:                rev
* Created/modified by:    Ella
* Date and Time:          7/12/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
.subckt 7847227010_1u 1 2
Rp 1 2 4761
Cp 1 2 0.96078p
Rs 1 N3 0.002
L1 N3 2 0.615082u
.ends 7847227010_1u
*******
.subckt 7847229020_1.96u 1 2
Rp 1 2 10064
Cp 1 2 1.214p
Rs 1 N3 0.0024
L1 N3 2 1.147u
.ends 7847229020_1.96u
*******
.subckt 7847227027_2.72u 1 2
Rp 1 2 11385
Cp 1 2 1.139p
Rs 1 N3 0.0064
L1 N3 2 1.547u
.ends 7847227027_2.72u
*******
.subckt 7847232045_4.45u 1 2
Rp 1 2 3427
Cp 1 2 4.56p
Rs 1 N3 0.0038
L1 N3 2 3.237u
.ends 7847232045_4.45u
*******
.subckt 7847225100_10.4u 1 2
Rp 1 2 22318
Cp 1 2 0.535317p
Rs 1 N3 0.033
L1 N3 2 7.293u
.ends 7847225100_10.4u
*******
